US04859661
To a stirred mixture of 50 ml of water, 50 ml of ether and 4-cyclopentylphenol was added dropwise 2.1 ml of 61% nitric acid and further was added a catalytic amount of sodium nitrite, then the mixture was reacted with stirring at room tempeature for 5 days. The reaction mixture was extracted with 200 ml of ethyl acetate and dried wih anhydrous sodium sulfate. The drying agent was filtered off and the solvent was distilled away under reduced pressure. The residue was purified by subjecting to silica-gel column-chromatography [eluent:chloroform-n-hexane (1:1)] to give 3.60 g of 4-cyclopentyl-2-nitrophenol.

reactant | water | 50 ml | O | H2O
reactant | 4-cyclopentylphenol | C1(CCCC1)C1=CC=C(C=C1)O | C11H14O
reactant | nitric acid | 2.1 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-cyclopentyl-2-nitrophenol | 3.60 g | C1(CCCC1)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C11H13NO3
